US04675186
(4-Hydroxyphenyl)glyoxal
4-Hydroxyacetophenone (15 g., 0.11 mol) was dissolved in 70 ml. dioxane and 8.3 ml. H2O. SeO2 (12.2 g., 0.11 mol) was added and the mixture heated at 80° for 18 hours, then filtered over diatomaceous earth. The filtrate was stripped, taken up in 150 ml. H2O, heated on a steam bath, decolorized with activated carbon, cooled to refrigerator temperature, and hydrate of title product recovered by filtration, 5.72 g. Anhydrous title product was obtained by Kugelrohr distillation; 1H-nmr 5.97 (s, 1H), 6.97 (d, 2H, J=6 Hz), 8.22 (d, 2H, J=6 Hz), 9.68 (s, 1H).

reactant | 4-Hydroxyacetophenone | 0.11 mol, 15 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
product | (4-Hydroxyphenyl)glyoxal | OC1=CC=C(C=C1)C(=O)C=O | C8H6O3
